US07034039B2
Tert-butyl{6-chloro-2-methyl-1-oxo-4-(3-nitrophenyl)-1,2-dihydro-3-isoquinolinyl}methylcarbamate (synthesized according to the method similar to that in Example 23 (6)) (0.89 g, 2 mmol) was added to an aqueous solution (10 ml) of potassium carbonate (2.90 g, 21 mmol) and sodium hydrosulfite (2.44 g, 14 mmol) and the mixture was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. After washing the extract with water, the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl{4-(3-aminophenyl)-6-chloro-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.48 g, 58.5%) as crystals.

reactant | Tert-butyl{6-chloro-2-methyl-1-oxo-4-(3-nitrophenyl)-1,2-dihydro-3-isoquinolinyl}methylcarbamate | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)[N+](=O)[O-])Cl)=O)C)=O | C22H22ClN3O5
reactant | potassium carbonate | 21 mmol, 10 ml, 2.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrosulfite | 14 mmol, 2.44 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | tert-butyl{4-(3-aminophenyl)-6-chloro-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.48 g, 58.5% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)N)Cl)=O)C)=O | C22H24ClN3O3
